US08471005B2
[7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-methyl-3H-benzimidazol-5-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.20 mmol) was coupled with 3-methyl-3H-benzimidazol-5-ylamine (50.0 mg, 0.340 mmol) at 105° C. for 90 h to afford the title compound. Yield of TFA salt: 25 mg (22%) of brown powder; LC/MS: 459 (M+H); HPLC: 97% pure, RT=2.49 min; 1H NMR: (DMSO, δ) 10.01 (s, 1H), 9.24 (s, 1H), 9.12 (s, 1H), 8.55 (m, 2H), 8.27 (s, 1H), 7.92 (d, J=7.8, 1H), 7.85 (t, J=7.8, 1H), 7.79 (d, J=9.0, 1H), 7.74 (d, J=9.0, 1H), 7.32 (d, J=4.7, 1H), 7.06 (d, J=4.7, 1H), 3.79 (s, 3H), 3.29 (d, J=7.0, 2H), 0.83 (m, 1H), 0.41 (m, 2H), 0.07 (m, 2H).

reactant | 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.20 mmol, 75 mg | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC | C17H17N3O2S2
reactant | 3-methyl-3H-benzimidazol-5-ylamine | 0.340 mmol, 50.0 mg | CN1C=NC2=C1C=C(C=C2)N | C8H9N3
product | [7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-methyl-3H-benzimidazol-5-yl)-amine | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=CN1C)C=C2 | C24H22N6O2S
